Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ year old roofer who fell 10 feet off of a 
roof
prior to presentation. He had been walking up a ladder with a
bundle of shingles on his back and lost his footing when he got
to the roof. He fell and landed on his back and right arm and 
the
equipment he was carrying fell and landed on his chest. 

He is complaining of right hand pain, diffuse chest wall pain,
mostly at the xiphoid with a deep breath and across his entire
back along the whole length of the spine. He did not lose
consciousness. He has never had a similar fall at work.

The patient initially went to an urgent care ___ in a private
car and then 911 was called and he was taken by EMS to ___. A
c-collar was applied. He is in significant pain during my
evaluation and has been requiring a lot of pain medication. His
right hand is in a temporary splint.
 
Past Medical History:
___: none

PS: C5-C7 anterior fusion
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Admission Exam: 
VS within normal limits
ccollar in place
no midface instability
no blood in the nasopharynx
no blood in the oropharynx
tympanic membranes are clear
grossly neuro intact
pupils reactive bilaterally 4-3mm
CTA ___
RRR
+chest wall tenderness across anterior chest, notably along
sternum 
abdomen soft nontender nondistended
tender to palpation along entire spine, no stepoffs
normal rectal exam
no obvious bony deformities

Discharge Physical Exam:
98.7, 84, 133/83, 18, 97%ra
A&O x3, calm, cooperative
HEENT: in soft collar for comfort
CV: HRR
Pulm: LS ctab
Abd: soft NT/ND
Ext: RUE in cast, +csm to fingers

 
Pertinent Results:
___ 05:27AM BLOOD WBC-4.9 RBC-5.13 Hgb-15.2 Hct-43.3 MCV-84 
MCH-29.6 MCHC-35.1 RDW-12.1 RDWSD-36.6 Plt ___
___ 09:59PM BLOOD WBC-7.4 RBC-5.03 Hgb-15.2 Hct-43.2 MCV-86 
MCH-30.2 MCHC-35.2 RDW-12.2 RDWSD-37.8 Plt ___
___ 09:59PM BLOOD Neuts-69.2 ___ Monos-6.9 Eos-0.8* 
Baso-0.4 Im ___ AbsNeut-5.13 AbsLymp-1.66 AbsMono-0.51 
AbsEos-0.06 AbsBaso-0.03
___ 05:27AM BLOOD Glucose-109* UreaN-15 Creat-0.8 Na-136 
K-4.1 Cl-100 HCO3-28 AnGap-12
___ 09:59PM BLOOD Glucose-99 UreaN-13 Creat-1.0 Na-138 
K-4.4 Cl-98 HCO3-28 AnGap-16

CT Head: negative
CT cspine: negative
CT torso: indurated mediastinal fat, no hematoma, no other
injuries

R hand films: R ___ metacarpal fracture

C-Spine MRI:
1.  Anterior fusion of C5 through C7.  
  
2.  No evidence of ligamentous injury and no cord signal 
abnormality. 
  
3.  Multilevel degenerative changes as described above. 

 
Brief Hospital Course:
___ s/p fall from roof found to have right ___ metacarpal 
fracture. Hand surgery consulted and recommended non weight 
bearing to the right hand, no urgent surgical intervention and 
splinted the hand. The patient was admitted for pain control and 
___ consult. He was hemodynamically stable. The patient 
continued to complain of neck tenderness so a C-spine MRI was 
obtained which was negative for ligamentous injury. The patient 
was given a soft collar for comfort. 

___ and OT evaluated the patient and he was cleared for home. 
Pain was well controlled. During this hospitalization, the 
patient ambulated early and frequently, was adherent with 
respiratory toilet and incentive spirometry, and actively 
participated in the plan of care. The patient received 
subcutaneous heparin and venodyne boots were used during this 
stay.
.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home on HD2 without 
services and with follow-up to see the Hand surgeons as an 
outpatient. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
none
 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*20 Capsule Refills:*0 
2.  HYDROcodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN 
Pain - Moderate 
RX *hydrocodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
every four (4) hours Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Incomplete nondisplaced transverse fracture at the base of the 
fifth 
metatarsal 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Right hand: non-weight bearing

 
Discharge Instructions:
You were admitted to ___ after a fall from a roof. You 
fractured your right wrist. You were also endorsing neck pain 
but fortunately your CT scan and MRI were negative for any new 
fracture or ligamentous injury. You were seen by the Hand 
Orthopedics and they have casted the arm. You should not bear 
weight on the hand but you may lean on your right elbow as 
tolerated. You should follow-up with them at the appointment 
listed below. You are now medically cleared to be discharged 
home to continue your recovery. Please note the following 
discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. 

 
Followup Instructions:
___